US07700786B2
Reaction of 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-trifluoromethylpyrazole with methyl isocyanate was carried out in the same manner as in Example 173, to give a white solid of N-methyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-trifluoromethylpyrazole-1-carboxamide (0.39 g, yield: 20.1%). mp: 61-63° C.; 1H-NMR (CDCl3, TMS, ppm): δ 3.52 (s, 3H), 5.66 (s, 1H), 8.00 (d, J=11.8 Hz, 1H), 8.61 (d, J=1.8 Hz, 1H), 10.10-10.40 (m, 1H).

reactant | 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-trifluoromethylpyrazole | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=NNC(=C1)C(F)(F)F | C10H4ClF6N3O
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | N-methyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-trifluoromethylpyrazole-1-carboxamide | 0.39 g, yield: 20.1% | CNC(=O)N1N=C(C=C1C(F)(F)F)OC1=NC=C(C=C1Cl)C(F)(F)F | C12H7ClF6N4O2
